### PR TITLE
[Merged by Bors] - feat(Algebra/Ring/Commute): add versions of add|sub_sq

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds the following two lemmas in the `Commute` namespace:
```lean
lemma add_sq {a b : R} (h : Commute a b) : (a + b) ^ 2 = a ^ 2 + 2 * a * b + b ^ 2

lemma sub_sq {a b : R} (h : Commute a b) : (a - b) ^ 2 = a ^ 2 - 2 * a * b + b ^ 2
```
The second one proved convenient in [Heights/GelfandMazur](https://github.com/MichaelStollBayreuth/Heights/blob/master/Heights/GelfandMazur.lean), and the first is added for completeness.

Note that the existing `add_sq` and `sub_sq` lemmas require `R` to be commutative, which we want to avoid here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 1]
```diff
@@ -331,6 +331,16 @@ theorem _root_.smul_algebraMap {α : Type*} [Monoid α] [MulDistribMulAction α
     [SMulCommClass α R A] (a : α) (r : R) : a • algebraMap R A r = algebraMap R A r := by
   rw [algebraMap_eq_smul_one, smul_comm a r (1 : A), smul_one]
 
+/-- A variant of `add_sq` that does not require `A` to be commutative. -/
+lemma add_smul_one_sq (x : A) (r : R) :
+    (x + r • 1) ^ 2 = x ^ 2 + 2 * x * (r • 1) + (r • 1) ^ 2 := by
+    simp [sq, add_mul, mul_add, smul_add, smul_smul, two_mul, add_assoc]
```
Comment (adomani) [inline Mathlib/Algebra/Algebra/Defs.lean]:
```suggestion
  simp [sq, add_mul, mul_add, smul_add, smul_smul, two_mul, add_assoc]
```

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 2]
```diff
@@ -331,6 +331,16 @@ theorem _root_.smul_algebraMap {α : Type*} [Monoid α] [MulDistribMulAction α
...
+
+/-- A variant of `sub_sq` that does not require `A` to be commutative. -/
+lemma sub_smul_one_sq {A R : Type*} [CommRing R] [Ring A] [Algebra R A] (x : A) (r : R) :
+    (x - r • 1) ^ 2 = x ^ 2 - 2 * x * (r • 1) + (r • 1) ^ 2 := by
+    simp [sq, sub_mul, mul_sub, smul_sub, smul_smul, two_mul, ← sub_sub, ← sub_add]
```
Comment (adomani) [inline Mathlib/Algebra/Algebra/Defs.lean]:
```suggestion
  simp [sq, sub_mul, mul_sub, smul_sub, smul_smul, two_mul, ← sub_sub, ← sub_add]
```

**Comment by adomani** [comment]
Would it work for your use-case to prove `Commute.add_sq` and `Commute.sub_sq` and then proving `Commute x (r • 1)`?

**Comment by j-loreaux** [comment]
Also, why are we not using `algebraMap` here?

**Comment by MichaelStollBayreuth** [comment]
It's workable; `rw [..., sub_smul_one_sq, ...]` turns into
`rw [..., Commute.sub_sq <| algebraMap_eq_smul_one (A := F) r ▸ commute_algebraMap_right r x, ...]`.

In any case, I agree that `Commute.{add|sub}_sq` is reasonable to add.

**Comment by MichaelStollBayreuth** [comment]
> Also, why are we not using `algebraMap` here?

I find `r • 1` so much nicer to type and read than `algebraMap R A r` :smile:

I actually would prefer to have `r • 1` as the `simp` normal form (and `r • x` for `algebraMap R A r * x`).
If you have more involved terms in algebras to work with, it is not a lot of fun to see `algebraMap` popping up everywhere...

**Comment by MichaelStollBayreuth** [comment]
Replaced the lemmas by the `Commute` versions now (which I'm surprised that they didn't exist).

**Comment by adomani** [comment]
Thanks!  If you want to add also the `Commute` lemma for either `algebraMap` or `smul`, I would be happy with that.

Then, you would probably have
```lean4
rw [..., sub_smul_one_sq, ...]
```
turns into
```
rw [..., Commute.sub_sq (Commute.algebraMap_left r x), ...].
```
or whatever the correct name for the `Commute` lemma is`  :smile:

**Comment by MichaelStollBayreuth** [comment]
`commute_algebraMap_{left|right}` do exist; the slightly annoying thing is that one has to pass from `r • 1` to `algebraMap R A r` to use it (see the code above, which already works).

**Comment by adomani** [comment]
Ok, so here is a suggestion: the current two lemmas I consider to be good additions and they help you already as they are. I'll merge these.

I do not have a strong opinion on adding also the `commute_smul_one` lemmas that would probably give you an even cleaner version.  However, that can be a separate PR, where there can also be a discussion about the merits of the two normal forms and which one is preferred.

bors merge

**Comment by MichaelStollBayreuth** [comment]
Thanks!

I think I'll leave it at that for the moment; it's not that cumbersome to do the substitution in my use case.
